US04863942
A suspension of 15.1 g (29 mmol) of N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylphenyl}-oxamic acid methyl ester in 120 ml of methanol and 30.4 ml of N sodium hydroxide solution is heated under reflux for 90 minutes. The reaction mixture is concentrated under reduced pressure, dissolved in acetone and dilute sodium hydroxide solution and acidified with dilute hydrochloric acid. The product that has formed is filtered off, washed with acetone/water and recrystallised from isopropanol. N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylphenyl}-oxamic acid having a melting point of 191°-192° is obtained. 10.9 g (21.5 mmol) of this product are dissolved in 450 ml of isopropanol under reflux, and a solution of 3.20 g (21.5 mmol) of triethanolamine in 30 ml of isopropanol is then added thereto. The solution is cooled and concentrated to approximately one third under reduced pressure. After the addition of ether, crystallisation begins. The product that has formed is filtered off and washed with ether. The triethanolammonium salt of N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylphenyl}-oxamic acid having a melting point of 85°-86° is obtained.

reactant | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylphenyl}-oxamic acid methyl ester | 29 mmol, 15.1 g | COC(C(=O)NC1=CC(=C(C=C1C)Br)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C24H28BrNO7
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
product | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylphenyl}-oxamic acid | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(C(=CC2Br)C)NC(C(=O)O)=O)C=C1)CCC)O | C23H26BrNO7
